US07612099B2
3-Hydroxy-2-[(3-methyl-1H-indol-2-yl)-phenyl-methyl]-4-phenyl-cyclopent-2-enone
Using general procedure D, rac-3-hydroxy-4-phenyl-cyclopent-2-enone (Lit. 17) was reacted with benzaldehyde and 3-methyl-1H-indole to give the title compound as a red solid. MS: 394.1 ([M+H]+).

reactant | rac-3-hydroxy-4-phenyl-cyclopent-2-enone | OC1=CC(CC1C1=CC=CC=C1)=O | C11H10O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 3-methyl-1H-indole | CC1=CNC2=CC=CC=C12 | C9H9N
product | 3-Hydroxy-2-[(3-methyl-1H-indol-2-yl)-phenyl-methyl]-4-phenyl-cyclopent-2-enone | OC1=C(C(CC1C1=CC=CC=C1)=O)C(C1=CC=CC=C1)C=1NC2=CC=CC=C2C1C | C27H23NO2
